US08067408B2
1,1-Dimethylethyl 4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]phenyl}methyl)(methyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-1-piperazinecarboxylate
To a solution of 3-{[[(3-bromo-4-fluorophenyl)methyl](methyl)amino]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide (0.37 g, 0.58 mmol) in p-dioxane/H2O (4.5/1.5 mL) was added {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid (0.279 g, 0.87 mmol), Pd(PPh3)4 (33.6 mg, 0.029 mmol), and K2CO3 (0.32 g, 2.32 mmol). The mixture was heated with a microwave at 150° C. for 15 min. The organic layer was separated and concentrated. The residue was redissolved in EtOAc, washed with H2O, brine, dried over Na2SO4, filtered, concentrated and the concentrate purified by CombiFlash chromatograph to afford the title compound 0.396 g (82%). LC-MS m/z 833 (M+H)+.

reactant | 3-{[[(3-bromo-4-fluorophenyl)methyl](methyl)amino]methyl}-N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}benzamide | 0.58 mmol, 0.37 g | BrC=1C=C(C=CC1F)CN(C)CC=1C=C(C(=O)NCC=2C(=C3C(=NC2CC)N(N=C3)CC)NC3CCOCC3)C=CC1 | C32H38BrFN6O2
reactant | {3-[(4-{[(1,1-dimethylethyl)oxy]carbonyl}-1-piperazinyl)methyl]phenyl}boronic acid | 0.87 mmol, 0.279 g | CC(C)(C)OC(=O)N1CCN(CC1)CC=1C=C(C=CC1)B(O)O | C16H25BN2O4
reactant | K2CO3 | 2.32 mmol, 0.32 g | C(=O)([O-])[O-].[K+].[K+]
solvent | p-dioxane H2O | 1.5 mL | O1CCOCC1.O
catalyst | Pd(PPh3)4 | 0.029 mmol, 33.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-Dimethylethyl 4-[(5′-{[({3-[({[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}amino) carbonyl]phenyl}methyl)(methyl)amino]methyl}-2′-fluoro-3-biphenylyl)methyl]-1-piperazinecarboxylate | 0.396 g, 82% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C=2C=C(C=CC2)CN(C)CC=2C=CC(=C(C2)C2=CC(=CC=C2)CN2CCN(CC2)C(=O)OC(C)(C)C)F)CC | C48H61FN8O4
